US09334290B2
A mixture of sodium 2-(3-methoxypyridin-2-yl)acetate (0.166 g, 0.871 mmol), 3-bromo-2-methylaniline (0.118 mL, 0.958 mmol), DIEA (0.608 mL, 3.48 mmol) and HATU (0.397 g, 1.05 mmol) in DMF (4.0 mL) was stirred at room temperature. After 1 h, the mixture was diluted with EtOAc and washed twice with 10% aqueous LiCl, then with brine, dried and concentrated. The residue was purified by column chromatography on silica gel to provide N-(3-bromo-2-methylphenyl)-2-(3-methoxypyridin-2-yl)acetamide as a pale yellow solid (0.213 g, 73% yield). Mass spectrum m/z 335, 337 (M+H)+.

reactant | sodium 2-(3-methoxypyridin-2-yl)acetate | 0.871 mmol, 0.166 g | COC=1C(=NC=CC1)CC(=O)[O-].[Na+]
reactant | 3-bromo-2-methylaniline | 0.958 mmol, 0.118 mL | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | DIEA | 3.48 mmol, 0.608 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.05 mmol, 0.397 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-bromo-2-methylphenyl)-2-(3-methoxypyridin-2-yl)acetamide | 0.213 g, 73% yield | BrC=1C(=C(C=CC1)NC(CC1=NC=CC=C1OC)=O)C | C15H15BrN2O2
